US04158093
To 67.5 parts of the quaternary salt of 2-picoline, also called 2-methylpyridine, (obtained as in Example 13) was added 100 parts methanol, one part piperidine, and 37 parts benzaldehyde. The solution was boiled at reflux for three hours, 175 parts 40% sodium hydroxide solution was added, and the heating continued 1.5 hour to give on workup, as in Example 13, 27 parts 2-styrylpyridine.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | 2-styrylpyridine | C(=CC1=CC=CC=C1)C1=NC=CC=C1 | C13H11N
